US08383635B2
2-[(3-aminopropyl)amino]-8-bromo-4-[(3-methylphenyl)amino]pyrido[4,3-d]pyrimidin-5(6H)-one
The product was prepared from 8-bromo-4-[(3-methylphenyl)amino]-2-(methylthio)pyrido[4,3-d]pyrimidin-5(6H)-one using mCPBA/1,1-dimethylethyl (3-aminopropyl)carbamate and TFA sequences similar that described for Example 1 (Scheme 2). It was purified using reverse-phase HPLC.

reactant | 8-bromo-4-[(3-methylphenyl)amino]-2-(methylthio)pyrido[4,3-d]pyrimidin-5(6H)-one | BrC1=CNC(C2=C1N=C(N=C2NC2=CC(=CC=C2)C)SC)=O | C15H13BrN4OS
reactant | mCPBA 1,1-dimethylethyl (3-aminopropyl)carbamate | C1=CC(=CC(=C1)Cl)C(=O)OO.NCCCNC(OC(C)(C)C)=O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-[(3-aminopropyl)amino]-8-bromo-4-[(3-methylphenyl)amino]pyrido[4,3-d]pyrimidin-5(6H)-one | NCCCNC=1N=C(C2=C(N1)C(=CNC2=O)Br)NC2=CC(=CC=C2)C | C17H19BrN6O
